US06147078
STEP D: 2-BROMO-3-HYDROXY-5-METHYLTHIOPYRAZINE
A SOLUTION OF SODIUM NITRITE (842 MG, 12.2 MMOL) IN WATER (100 ML) WAS ADDED TO A STIRRED SOLUTION OF 3-AMINO-2-BROMO-5-METHYLTHIOPYRAZINE (2.44 G, 11.1 MMOL) IN ACETIC ACID (100 ML) AT 0°C. THE REACTION WAS WARMED TO RT AND AFTER 16 H THE REACTION MIXTURE WAS PARTITIONED BETWEEN WATER AND METHYLENE CHLORIDE. THE ORGANIC LAYER WAS DRIED (NA2SO4) AND EVAPORATED IN VACUO. THE CRUDE PRODUCT WAS PURIFIED BY FLASH COLUMN CHROMATOGRAPHY ON SILICA GEL (40% ETHYL ACETATE/HEXANES) TO GIVE THE TITLE COMPOUND AS A CRYSTALLINE SOLID:

reactant | SODIUM NITRITE | N(=O)[O-].[Na+]
reactant | 3-AMINO-2-BROMO-5-METHYLTHIOPYRAZINE | NC=1C(=NC=C(N1)SC)Br | C5H6BrN3S
solvent | WATER | O | H2O
solvent | ACETIC ACID | C(C)(=O)O | C2H4O2
product | 2-BROMO-3-HYDROXY-5-METHYLTHIOPYRAZINE | BrC1=NC=C(N=C1O)SC | C5H5BrN2OS
